US20010006969A1
2,4-Diallylamino-7-propylthieno[3,2-d]pyrimidine
189 mg (0.71 mmol) of 4-allylamino-2-chloro-7-propylthieno[ 3,2-d]pyrimidine and 644 mg (11.3 mmol) of allylamine were heated in a sealed tube at 140° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 116 mg (yield: 56.9%) of the title compound.

reactant | 4-allylamino-2-chloro-7-propylthieno[ 3,2-d]pyrimidine | 0.71 mmol, 189 mg | C(C=C)NC=1C2=C(N=C(N1)Cl)C(=CS2)CCC | C12H14ClN3S
reactant | allylamine | 11.3 mmol, 644 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2,4-Diallylamino-7-propylthieno[3,2-d]pyrimidine | 116 mg, yield: 56.9% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)CCC)NCC=C | C15H20N4S
